* /home/saurabh/pilot_related/new_installer/esim-1.1.2/examples/7805voltageregulator/7805voltageregulator.cir

.include lm7805.sub
.include D.lib
d1 in2 net-_c1-pad1_ 1N4148
d2 gnd in2 1N4148
d4 gnd in1 1N4148
d3 in1 net-_c1-pad1_ 1N4148
d5 gnd out 1N4148
c1  net-_c1-pad1_ gnd 1000u
c2  out gnd 3.3u
r1  out gnd 1k
v1  in1 in2 sine(0 24 50 0 0)
* u1  in1 plot_v1
* u2  in2 plot_v1
* u3  out plot_v1
x1 net-_c1-pad1_ gnd out lm7805
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out)
.endc
.end
